US08207214B2
a) 9-(1-methylethyl)-9H-carbazole
Carbazole (5 g; 0.03 mol) was reacted with isopropyl bromide (5.61 ml; 0.06 mol) by working in a manner similar to that described in Example 1a).

reactant | Carbazole | 0.03 mol, 5 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | isopropyl bromide | 0.06 mol, 5.61 ml | C(C)(C)Br | C3H7Br
product | 9-(1-methylethyl)-9H-carbazole | CC(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H15N
